US04794188
2-[2-(1-Hydroxyhexyl)-5-pyridyloxy]quinoline
To a cold (-30° C.) solution of 5-(2-quinolinyloxy)-2-pyridine carboxaldehyde (8 g, 0.032 mol) in dry THF (125 ml) was added a solution of pentylmagnesium bromide (prepared from 4.83 g (0.032 mol) of 1-bromopentane and 0.78 g (0.032 mol) of Mg turnings in THF (60 ml). After the addition of the Grignard reagent was complete (-45° C.), the solution was stirred at this temperature for 90 minutes, and allowed to slowly warm up to room temperature in about 2 hours. The reaction was quenched by adding a saturated solution of ammonium chloride. The clear organic layer was decanted, and most of the volatiles were removed. The residue was taken up in ethyl acetate, and then washed with water, brine, and dried over MgSO4. After removal of the ethyl acetate the crude residue (7.7 g) was purified by HPLC (silica gel; 25% ethyl acetate in hexane) to give 3.6 g (35%) of pure product.

reactant | 5-(2-quinolinyloxy)-2-pyridine carboxaldehyde | 0.032 mol, 8 g | N1=C(C=CC2=CC=CC=C12)OC=1C=CC(=NC1)C=O | C15H10N2O2
reactant | pentylmagnesium bromide | C(CCCC)[Mg]Br
reactant | 1-bromopentane | 0.032 mol, 4.83 g | BrCCCCC | C5H11Br
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-[2-(1-Hydroxyhexyl)-5-pyridyloxy]quinoline | 3.6 g, 35% | OC(CCCCC)C1=NC=C(C=C1)OC1=NC2=CC=CC=C2C=C1 | C20H22N2O2
